US07351826B2
Step 2. Preparation of 2,5-Difluoro-N-isobutyl-N-(5-methyl-3-propyl-imidazo[1,5-b]pyridazin-2-ylmethyl)-benzamide
A mixture of 2,5-difluoro-N-[6-(1-formylamino-ethyl)-4-propyl-pyridazin-3-ylmethyl]-N-isobutyl-benzamide (89 mg) and POCl3 (3 ml) is heated at 100° C. for 3 hours. The solvent is removed in vacuo and to the residue is added saturated NaHCO3 aqueous solution to neutralize the reaction mixture. EtOAc (10 ml) is added and the layers are separated. The aqueous layer is extracted with EtOAc (10 ml) and the combined extracts are washed with brine (10 ml), dried (Na2SO4) and evaporated. Flash column separation of the residue with 5% MeOH in CH2Cl2 gives the title compound as a light yellow oil. 1H NMR (CDCl3) (mixture of rotamers) 8.30 (s, 0.4H), 8.25 (s, 0.6H), 7.45 (s, 0.6H), 7.35 (s, 0.4H), 7.00-7.13 (m, 3H), 4.83 (s, 1.2H), 4.48 (s, 0.8H), 3.08 (d, 2H), 2.48 (s, 1.8H), 2.46 (s, 1.2H), 2.56 (t, 1.2H), 2.08-2.17 (m, 0.4H), 1.95-2.05 (m, 0.6H), 2.26 (t, 0.8H), 1.66-1.75 (m, 1.2H), 1.38-1.47 (m, 0.8H), 1.05 (t, 1.8H), 0.99 (d, 2.4H), 0.91 (t, 1.2H), 0.79 (d, 3.6H).

reactant | 2,5-difluoro-N-[6-(1-formylamino-ethyl)-4-propyl-pyridazin-3-ylmethyl]-N-isobutyl-benzamide | 89 mg | FC1=C(C(=O)N(CC(C)C)CC=2N=NC(=CC2CCC)C(C)NC=O)C=C(C=C1)F | C22H28F2N4O2
reactant | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,5-Difluoro-N-isobutyl-N-(5-methyl-3-propyl-imidazo[1,5-b]pyridazin-2-ylmethyl)-benzamide | FC1=C(C(=O)N(CC=2C(=CC=3N(N2)C=NC3C)CCC)CC(C)C)C=C(C=C1)F | C22H26F2N4O
